US08633175B2
To a solution of 3-bromoaniline (1.0 mL, 9.18 mmol) and TEA (2.60 mL, 18.5 mmol) in CH2Cl2 (20 mL) was added 3-chloro-1-propanesulfonyl chloride (1.40 mL, 11.5 mmol) at 0° C. After stirring at room temperature for 16 hr, 3-chloro-1-propanesulfonyl chloride (1.40 mL, 11.5 mmol) and TEA (2.6 mL, 18.5 mmol) was added and the solution stirred at room temperature for 2 hr. The solution was then washed with HCl (1.0 N, aq) and brine, dried over Na2SO4 then concentrated in vacuo. The residue was then taken up in DMF (40 mL) and DBU (4.10 mL, 27.6 mmol) was added. The mixture was stirred at room temperature for 64 hr, diluted with EtOAc, then washed with 1N HCl and brine then concentrated. The residue was purified by silica gel chromatography (EtOAc/hexanes) to give 2-(3-bromophenyl)isothiazolidine 1,1-dioxide as an off-white solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.50-2.54 (m, 2H), 3.37 (t, J=7.5 Hz, 2H), 3.74 (t, J=7.5 Hz, 2H), 7.22-7.24 (m, 3H), 7.33 (s, 1H).

reactant | 3-bromoaniline | 9.18 mmol, 1.0 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-chloro-1-propanesulfonyl chloride | 11.5 mmol, 1.40 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 3-chloro-1-propanesulfonyl chloride | 11.5 mmol, 1.40 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | DBU | 27.6 mmol, 4.10 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-bromophenyl)isothiazolidine 1,1-dioxide | BrC=1C=C(C=CC1)N1S(CCC1)(=O)=O | C9H10BrNO2S
